US07888352B2
2-Chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidine-6-carbaldehyde (0.5 g) was dissolved in 10 mL of 1,2-DCE and 1.0 eq. AcOH and 1.3 eq. of 1-methyl-4-(methylamino)piperidine was added and the reaction was stirred 15 minutes followed by the addition of sodium triacetoxyborohydride. The reaction was stirred for 24 hours and product formation was confirmed by LCMS. The reaction was diluted with sat. NaHCO3, extracted with dichloromethane, dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography (EtOAc/hexanes) to give 0.61 g N-((2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)-N,1-dimethylpiperidin-4-amine (88% yield). MS (Q1) 411 (M)+.

reactant | 2-Chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidine-6-carbaldehyde | 0.5 g | ClC=1N=C(C2=C(N1)C(=C(S2)C=O)C)N2CCOCC2 | C12H12ClN3O2S
reactant | AcOH | CC(=O)O | C2H4O2
reactant | 1-methyl-4-(methylamino)piperidine | 1.3 eq. | CN1CCC(CC1)NC | C7H16N2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-((2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)-N,1-dimethylpiperidin-4-amine | 0.61 g, 88% yield | ClC=1N=C(C2=C(N1)C(=C(S2)CN(C2CCN(CC2)C)C)C)N2CCOCC2 | C19H28ClN5OS
